US07371757B2
(a) 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-4-thioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile
To a solution of 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3yl]-1methyl-1H-pyrrole-3-carbonitrile (0.53 g) in pyridine (5 mL) was added P4S10 (0.52 g). The mixture was heated by microwave at 140° C. for 100 minutes. The mixture was diluted with water and ethyl acetate. The organic solution was collected, washed with saturated NaHCO3 and brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography using a FlashMaster™ yielding 0.44 g.

reactant | 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3yl]-1methyl-1H-pyrrole-3-carbonitrile | 0.53 g | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(NC(C2=C1C1=CC(=CN1C)C#N)=O)=O)CC1CC1 | C25H20ClN7O2
reactant | P4S10 | 0.52 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-4-thioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(NC(C2=C1C1=CC(=CN1C)C#N)=S)=O)CC1CC1 | C25H20ClN7OS
